US06586617B1
Phosphorus oxychloride (5.00 g) was added to 2′,4′-dicarbamoyl-p-toluenesulfonanilide (0.30 g (0.90 mmol), and the mixture was heated at 50° C. for 4 hours with stirring. After cooling, addition of water, and stirring brought about precipitation of an insoluble solid. These crystals were filtered, washed with water and recrystallized from ethyl acetate-hexane to give 0.16 g (60%) of 2′,4′-dicyano-p-toluenesulfonanilide as pale brown crystals.

reactant | Phosphorus oxychloride | 5.00 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2′,4′-dicarbamoyl-p-toluenesulfonanilide | C(N)(=O)C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)C(N)=O | C15H15N3O4S
solvent | water | O | H2O
product | 2′,4′-dicyano-p-toluenesulfonanilide | 0.16 g, 60% | C(#N)C1=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=CC(=C1)C#N | C15H11N3O2S
